US07501414B2
7n Pentanoic acid (2,6-dimethyl-4-morpholin-4-yl-phenyl)-amide
Pentanoic acid (0.37 g), N,N-diisopropyl-ethylamine (1.51 mL) and N-[(dimethylamino)-1H-1,2,3-triazolo-[4,5-b]pyridin-1-yl-methylene]-N-methyl-methanaminium hexafluoro-phosphate N-oxide (1.66 g) were mixed in dry N,N-dimethylformamide (3 mL) and stirred under argon for 2 minutes. 2,6-Dimethyl-4-morpholin-4-yl-phenylamine (0.50 g) dissolved in dry N,N-dimethylformamide (2 mL) was added to the reaction mixture, which was stirred at 25° C. under argon for 16 hours. Ethyl acetate (20 mL) was added and the organic phase was washed with saturated aqueous ammonium chloride/water (1:1, 20 mL), water (20 mL), brine/water (1:1, 20 mL), dried over magnesium sulfate, concentrated in vacuo and purified by flash chromatography to furnish 0.28 g (40% yield) of the title compound as a white solid. LC-MS (m/z) 291 (MH+); tR=1.61, (UV, ELSD) 99%, 99%. 1H NMR (500 MHz, DMSO-d6): 0.91 (t, 3H), 1.34 (m, 2H), 1.58 (qui, 2H), 2.06 (s, 6H), 2.27 (t, 2H), 3.04 (t, 4H), 3.71 (t, 4H), 6.62 (s, 2H), 8.94 (s, 1H).

reactant | Pentanoic acid | 0.37 g | C(CCCC)(=O)O | C5H10O2
reactant | N,N-diisopropyl-ethylamine | 1.51 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2,6-Dimethyl-4-morpholin-4-yl-phenylamine | 0.50 g | CC1=C(C(=CC(=C1)N1CCOCC1)C)N | C12H18N2O
reactant | Ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | Pentanoic acid (2,6-dimethyl-4-morpholin-4-yl-phenyl)-amide | 0.28 g, 40% yield | CC1=C(C(=CC(=C1)N1CCOCC1)C)NC(CCCC)=O | C17H26N2O2
